US06326369B1
1,6-Bis(4,5,6,7-tetramethoxyindan-2-yl)hexane
A solution of 1,6-bis(4-bromo-5,6,7-trimethoxyindan-2-yl)hexane (2.10 g), copper bromide(I) (230 mg), ethyl acetate (0.625 ml), and sodium methoxide (28% methanol solution; 100 ml) was heated under reflux for 12 hr. Water was added to the reaction mixture, which was made acidic with concentrated hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, saturated aqueous sodium chloride, and dried. The solvent was removed in vacuo. The residue was purified by alumina column chromatography (hexane to hexane:ethyl acetate=8:1) to yield the entitled compound (1.22 g) as crystals.

reactant | 1,6-bis(4-bromo-5,6,7-trimethoxyindan-2-yl)hexane | 2.10 g | BrC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCCCCC1CC2=C(C(=C(C(=C2C1)Br)OC)OC)OC | C30H40Br2O6
reactant | ethyl acetate | 0.625 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium methoxide | 100 ml | C[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | Water | O | H2O
product | 1,6-Bis(4,5,6,7-tetramethoxyindan-2-yl)hexane | 1.22 g | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCCCCC1CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC | C32H46O8
